data_prep/sources/art_augmented_reactions.json
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CCl)c([Si](C)(C)CCl)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)CCl)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)CCl)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CCl)c([Si](C)(C)CCl)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)cc(Cl)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(Cl)cc(Cl)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)cc(Cl)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)cc(Cl)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)cc(Cl)c21", "products": "CN1C(=O)C2(C=CCC2)c2cc(Cl)cc(Cl)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(F)cc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "Cc1ccc(F)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "Cc1ccc(F)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1ccc(F)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "Cc1ccc(F)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1ccc(F)cc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "Cc1ccc(F)cc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CC1=C(c2cc(F)ccc2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)ccc2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(F)ccc2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)ccc2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(F)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "Cc1ccc(F)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "Cc1ccc(F)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "Cc1ccc(F)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "Cc1ccc(F)cc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1cc(Cl)cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(F)cc(Cl)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(F)cc(Cl)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)cc(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)cc(Cl)c1", "products": "O=C1CCN2C[C@H](OCc3cc(F)cc(Cl)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1Cl.[Pd]", "products": "Cc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1Cl"}, {"reactants": "Cc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1Cl", "products": "Cc1ccc2c(c1Cl)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1ccc2c(c1Cl)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1ccc2c(c1Cl)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)C)c2C(C)C", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C(C)C)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C(C)C)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C", "products": "CC(C)c1c2c(cc([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CC)c([Si](C)(C)COC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)COC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)COC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(cc1[Si](C)(C)COC)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(Br)c(N(C)C(=O)C2=CCCC2)cc1Cl.[Pd]", "products": "Cc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1Cl"}, {"reactants": "Cc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1Cl", "products": "Cc1cc2c(cc1Cl)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1cc2c(cc1Cl)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1cc2c(cc1Cl)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cc(F)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "Cc1cc(F)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "Cc1cc(F)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1C", "products": "Cc1cc(F)ccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
